US04207413
A suspension of commercial α-L-arabinose (100 g.) in absolute methanol (200 ml.) and dry nitromethane (360 ml.), in a 3-necked, 2-liter flask fitted with an efficient mechanical stirrer and a calcium chloride drying tube, was treated with a 1.3 N methanolic sodium methoxide solution (700 ml.). After 20 hr. of vigorous stirring, the precipitated sodium aci-nitro alcohols were collected by filtration and washed with a small volume of cold methanol followed by cold petroleum ether (60°-80°). The moist, highly hygroscopic salts were immediately dissolved in 800 ml. of iced water and the solution deionized either by passage over a column containing 800 ml. of Dowex® 50W-X8 (H+) resin or by three successive treatments with 300 ml. of fresh resin. The effluent and washings (total volume 2.5-3.0 liters for the column treatment and 1.5-2.0 liters for the batch treatment) were then evaporated at reduced pressure to a semi-crystalline mass which was further concentrated with several portions of absolute ethanol to remove residual water. The resulting crystalline mass was filtered with the aid of cold ethanol and the filtrate reprocessed to provide two additional crops of crystals. The crude product (70 g.) was separated by fractional crystallization from ethanol into the less soluble 1-deoxy-1-nitro-L-mannitol (30 g.) and the more soluble 1-deoxy-1-nitro-L-glucitol (25 g.). Two additional recrystallizations of samples of the nitro alcohols provided 1-deoxy-1-nitro-L-glucitol, m.p. 106°-107°, [α]D +7.44° (c 3.2, water), compared to m.p. 107°-108°, [α]D +9.5° (c 6.7, water); and 1-deoxy-1-nitro-L-mannitol, m.p. 133°-134°, [α]D +6.67° (c 5.4, water), compared to m.p. 133°-134°, [α]D +7.0° (c 6.2, water).

reactant | α-L-arabinose | 100 g | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)CO1 | C5H10O5
reactant | sodium methoxide | 1.3 N, 700 ml | C[O-].[Na+]
reactant | nitromethane | 360 ml | [N+](=O)([O-])C | CH3NO2
solvent | methanol | 200 ml | CO | CH4O
product | 1-deoxy-1-nitro-L-glucitol | [N+](=O)([O-])C[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H13NO7
